US08580803B2
Synthesis of (4-(4-(aminomethyl)phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone
To a mixture of tert-butyl(4-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzyl)carbamate (0.18 g, 0.41 mmol) in DCM (1.5 mL) was added 0.5 mL of TFA. The mixture was heated at 50° C. for 1 hour. The solvent was removed under reduced pressure. The residue was washed with DCM and dried on high vacuum give a yellow solid. M.p.=255-257° C.; 400 MHz 1HNMR (DMSO-d6) δ 13.05 (s, 1H), 11.43 (s, 1H), 8.48 (s, 1H), 7.98-7.96 (m, 3H), 7.85 (d, J=8.4 Hz, 2H), 7.70 (t, J=7.6 Hz, 1H), 7.60 (t, J=7.6 Hz, 2H), 7.48 (d, J=8.4 Hz, 2H), 4.03 (q, J=5.2 Hz, 2H); LCMS [M+H] 344.

reactant | tert-butyl(4-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzyl)carbamate | 0.41 mmol, 0.18 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)NC=1C2=C(N=CN1)NC=C2C(C2=CC=CC=C2)=O)=O | C25H25N5O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (4-(4-(aminomethyl)phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone | NCC1=CC=C(C=C1)NC=1C2=C(N=CN1)NC=C2C(=O)C2=CC=CC=C2 | C20H17N5O
